US06660742B2
A solution of 2-[4-(N-t-butoxycarbonylamino)-2-nitronaphthalen-1-yl]ethyl acetate (1.0 g, 2.67 mmol) in THF (40 mL) was added to a suspension of 10% Pd—C (0.1 g) in chilled THF (10 mL) and the suspension was hydrogenated (with shaking) at 55 psi at room temperature for 1 h. The suspension was filtered over Celite and the filtrate was concentrated under reduced pressure to afford 2-[2-amino-4-(N-t-butoxycarbonylamino)naphthalen-1-yl]ethyl acetate as an orange foam. The compound was washed with diisopropyl ether to afford as a pale yellow solid (0.48 g, 52%).: mp 138-140° C.; 1H NMR (CDCl3, 500 MHz) δ 7.86 (d, 9.0, 1H), 7.72 (d, 8.5, 1H), 7.56 (brs, 1H), 7.46 (t, 7.0, 1H), 7.27 (m, 1H), 6.85 (brs, 1H), 4.26 (t, 8.0, 2H), 4.22 (brs, 2H), 3.24 (t, 7.5, 2H), 2.10 (s, 3H), 1.56 (s, 9H); FABMS (NBA) m/z 344 (M+), IR (neat) νmax 3379, 2977, 1727, 1626, 1534, 1504, 1456, 1391, 1367, 1238, 1158, 1043, 894, 758, 730 cm−1.

reactant | 2-[4-(N-t-butoxycarbonylamino)-2-nitronaphthalen-1-yl]ethyl acetate | 2.67 mmol, 1.0 g | C(C)(=O)OCCC1=C(C=C(C2=CC=CC=C12)NC(=O)OC(C)(C)C)[N+](=O)[O-] | C19H22N2O6
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd—C | 0.1 g | [Pd] | Pd
product | 2-[2-amino-4-(N-t-butoxycarbonylamino)naphthalen-1-yl]ethyl acetate | C(C)(=O)OCCC1=C(C=C(C2=CC=CC=C12)NC(=O)OC(C)(C)C)N | C19H24N2O4
